US07807673B2
To a slurry of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide (100 mg, 0.22 mmol.) in i-PrOH (4 mL) was added N1-[3-(dimethylamino)propyl]-2-fluoro-1,4-benzenediamine (75 mg, 0.30 mmol) and 2 drops of conc. HCl. The reaction was heated in a microwave to 120° C. for 20 min. and allowed to cool to rt. A second batch of N1-[3-(dimethylamino)propyl]-2-fluoro-1,4-benzenediamine (75 mg, 0.30 mmol) was added and the reaction microwaved to 120° C. for 1 h further. The reaction was concentrated and the crude purified by HPLC (Agilent, 50-90% gradient over 15 min.) to give the title compound (50 mg, 36% yield) as an oil which solidified to a dark green solid. 1H NMR (400 MHz, d6-DMSO) δ 10.33 (s, 1H), 9.27 (s, 1H), 8.79 (d, J=7.0 Hz, 1H), 8.42 (bd, J=6.8 Hz, 1H), 8.15-8.17 (m, 2H), 7.85 (s, 1H), 7.71 (d, J=8.4 Hz, 1H), 7.51 (d, J=14.3 Hz, 1H), 7.35-7.43 (m, 3H), 7.23 (d, J=7.5 Hz, 1H), 7.18 (d, J=8.6 Hz, 1H), 7.08 (t, J=7.8 Hz, 1H), 6.93-6.95 (m, 2H), 6.60 (t, J=9.4 Hz, 1H), 6.38 (d, J=5.3 Hz, 1H), 3.84 (s, 2H), 3.05 (t, J=7.0 Hz, 2H), 2.37 (t, J=7.0 Hz, 2H), 2.18 (s, 6H), 1.69 (quintet, J=7.0 Hz, 2H) ppm. ES-LC/MS m/z=621 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 0.22 mmol, 100 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C23H16ClN5OS
reactant | N1-[3-(dimethylamino)propyl]-2-fluoro-1,4-benzenediamine | 0.30 mmol, 75 mg | CN(CCCNC1=C(C=C(C=C1)N)F)C | C11H18FN3
reactant | N1-[3-(dimethylamino)propyl]-2-fluoro-1,4-benzenediamine | 0.30 mmol, 75 mg | CN(CCCNC1=C(C=C(C=C1)N)F)C | C11H18FN3
solvent | i-PrOH | 4 mL | CC(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
product | N-[3-(3-{2-[(4-{[3-(Dimethylamino)propyl]amino}-3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 50 mg, 36% yield | CN(CCCNC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O)F)C | C34H33FN8OS
